US06503949B1
Step D: Resin Bound 3-({4-[1-(4-tert-butylcyclohexyl)-3-(4-trifluoromethoxyphenyl)-ureido-methyl]benzoyl}cyclopropylmethyl)aminopropionic Acid
200 μmol 4-trifluoromethoxyphenylisocyanate dissolved in 500 μL dichloromethane was added to the above resin bound 3-({4-[(4-tert-butylcyclohexylamino)methyl]benzoyl}-cyclo-propylmethyl)aminopropionic acid (50 mg). Shaking the mixture 5 hours at 25° C. followed by filtration and washing of the resin with 2×1 mL dichloromethane, 4×1 mL DMF, 2×1 mL H2O, 3×1 mL THF and 3×1 mL dichloromethane afforded the resin bound title compound.

reactant | 4-trifluoromethoxyphenylisocyanate | 200 μmol | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
reactant | 3-({4-[(4-tert-butylcyclohexylamino)methyl]benzoyl}-cyclo-propylmethyl)aminopropionic acid | 50 mg | C(C)(C)(C)C1CCC(CC1)NCC1=CC=C(C(=O)C(C2CC2)NCCC(=O)O)C=C1 | C25H38N2O3
solvent | dichloromethane | 500 μL | ClCCl | CH2Cl2
product | 3-({4-[1-(4-tert-butylcyclohexyl)-3-(4-trifluoromethoxyphenyl)-ureido-methyl]benzoyl}cyclopropylmethyl)aminopropionic Acid | C(C)(C)(C)C1CCC(CC1)N(C(=O)NC1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C(=O)C(C2CC2)NCCC(=O)O)C=C1 | C33H42F3N3O5
